US07432258B2
N-[1-(4-biphenylyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dimethyl-2-oxo-1(2H)-quinolinyl)-N-methylacetamide
[1-(4-biphenylyl)-2-(4-morpholinyl)ethyl]methylamine (150 mg, 0.52 mmol) was added to a solution of (6,7-dimethyl-2-oxo-1(2H)-quinolinyl)acetic acid (100 mg, 0.43 mmol), (benzotriazol-1-yloxy) tris(dimethylamino) phosphonium-hexafluorophosphate (BOP) (230 mg, 0.52 mmol) and diisopropylethylamine (280 mg, 2.15 mmol) in dimethylformamide (DMF) (5 mL). The reaction mixture was stirred at room temperature for 3 h, filtered and washed with DMF. The crude was purified by preparative HPLC (YMC CombiPrep ODS-A, 50×20 mm, 20 mL/min, A: acetonitrile B: water, A: 10 to 90% over 10 min, UV detection at 214 nm) to give the title compound (43 mg, 16%), MS (ES) m/e 510 [M+H]+.

reactant | [1-(4-biphenylyl)-2-(4-morpholinyl)ethyl]methylamine | 0.52 mmol, 150 mg | C1(=CC=C(C=C1)C(CN1CCOCC1)NC)C1=CC=CC=C1 | C19H24N2O
reactant | (6,7-dimethyl-2-oxo-1(2H)-quinolinyl)acetic acid | 0.43 mmol, 100 mg | CC=1C=C2C=CC(N(C2=CC1C)CC(=O)O)=O | C13H13NO3
reactant | diisopropylethylamine | 2.15 mmol, 280 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[1-(4-biphenylyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dimethyl-2-oxo-1(2H)-quinolinyl)-N-methylacetamide | 43 mg, 16% | C1(=CC=C(C=C1)C(CN1CCOCC1)N(C(CN1C(C=CC2=CC(=C(C=C12)C)C)=O)=O)C)C1=CC=CC=C1 | C32H35N3O3
